2172-05-13 07:32:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: 58 y/o M with history of ETOH cirrhosis admitted with
   encephalopathy and acute renal failure, now s/p hematemesis prompting
   MICU transfer.
   24 Hour Events:
 PICC LINE - START [**2172-5-12**] 03:00 PM
   switched from ctx to cipro
   picc placed
   placed on ciwa
   ensured lactulose was being given
   stayed in micu for likely egd in am
   Allergies:
   Haldol (Oral) (Haloperidol)
   Confusion/Delir
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Last dose of Antibiotics:
   Ciprofloxacin - [**2172-5-13**] 03:50 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Other ICU medications:
   Diazepam (Valium) - [**2172-5-13**] 06:44 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-5-13**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 36.4
C (97.5
   HR: 89 (70 - 90) bpm
   BP: 111/52(57) {94/30(48) - 137/85(96)} mmHg
   RR: 15 (15 - 24) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,906 mL
                                                                    338 mL
   PO:
                                                                    360 mL
             TF:
   IVF:
                                                                  1,546 mL
                                                                    338 mL
   Blood products:
   Total out:
                                                                  1,440 mL
                                                                    180 mL
   Urine:
                                                                  1,440 mL
                                                                    180 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    466 mL
                                                                    158 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 95%
   ABG: ///23/
   Physical Examination
   GEN: well-appearing, NAD
   Heart: rrr, no m/r/g
   Lungs: expiratory wheezes bilaterally
   Abd: soft, distended, nontender
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   85 K/uL
   9.8 g/dL
   149 mg/dL
   1.0 mg/dL
   23 mEq/L
   4.1 mEq/L
   34 mg/dL
   112 mEq/L
   145 mEq/L
   30.2 %
   11.6 K/uL
        [image002.jpg]
                             [**2172-5-12**]  01:25 AM
                             [**2172-5-12**]  04:05 AM
                             [**2172-5-12**]  03:11 PM
                             [**2172-5-13**]  05:00 AM
   WBC
   9.1
   9.7
   11.6
   Hct
   30.7
   30.0
   28.4
   30.2
   Plt
   83
   101
   85
   Cr
   1.9
   1.8
   1.0
   Glucose
   149
   135
   149
   Other labs: PT / PTT / INR:20.5/47.3/1.9, ALT / AST:170/383, Alk Phos /
   T Bili:188/12.3, LDH:430 IU/L, Ca++:9.3 mg/dL, Mg++:1.7 mg/dL, PO4:1.9
   mg/dL
   Assessment and Plan
   58 y/o M with history of ETOH cirrhosis admitted with encephalopathy
   and acute renal failure, now s/p hematemesis prompting MICU transfer.
   # GI bleed: with hematemesis, likely from esophageal bleed. Repeat Hct
   was stable at 30. Vital signs stable.
   - EGD today
   - serial Hcts; transfuse blood products as needed
   - PPI and octreotide infusion
   - monitor closely for any sign of bleed
   - keep type & screen active
   # Cirrhosis/hepatic encephalopathy: Oriented to person but not place or
   time.  Less confused today after taking lactulose. S/p paracentesis
   with unremarkable ascitic fluid.
   - continue lactulose, rifaximin, pentoxifylline
   - hold nadolol given ongoing GI bleed
   - continue ciprofloxacin for empiric SBP treatment; consider d/c'ing
   once more clinically stable and cx unremarkable
   # ARF: Creatinine 3.2 on admission from baseline of 1.2/1.0, trending
   down to 1.2 with IVF and albumin. Unlikely hepatorenal syndrome.
   - continue to trend renal labs
   - hold diuretics
   - IVFs prn
   # Diabetes type II:
   - continue home insulin
   # COPD:
   - continue nebs
   # H/o HTN: currently normotensive, will hold antihypertensives given
   ARF and GI bleed.
   # GERD: PPI
   # FEN: NPO for now
   # Ppx: pneumoboots
   # CODE: full
   # Contact: HCP/girlfriend [**Name (NI) **] [**Telephone/Fax (1) 9100**], [**Name2 (NI) **]er [**Name (NI) 729**]
   [**Telephone/Fax (1) 9101**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2172-5-12**] 02:54 AM
   PICC Line - [**2172-5-12**] 03:00 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: Pantoprazole drip
   VAP:
   Comments:
   Communication:  Comments:
   Code status:  full
   Disposition: MICU

2172-05-14 07:06:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 INVASIVE VENTILATION - START [**2172-5-13**] 12:00 PM
 ENDOSCOPY - At [**2172-5-13**] 12:13 PM
 [**Last Name (un) **] INSERTED - At [**2172-5-13**] 12:15 PM
 ARTERIAL LINE - START [**2172-5-13**] 01:15 PM
 [**Location (un) **] LINE - START [**2172-5-13**] 01:17 PM
 ENDOSCOPY - At [**2172-5-13**] 04:30 PM
   10 mg reglan IV given at 1640
 EKG - At [**2172-5-13**] 08:30 PM
   - variceal bleed in a.m., got [**Last Name (un) **], RIJ ([**Location (un) **]) and a-line, 2u prbc,
   2u FFP, grade 2 varices on EGD with four bands placed and one varix
   seen oozing, intubation for airway protection. remained hemodynamically
   stable
   - MAPs drifted into 50s overnight with low UOP but responded to 500 cc
   NS boluses
   - Hcts remained stable
   - had increasing abdominal distension overnight; abdomen remained soft,
   KUB neg for free air but colon expanded
   - correcting FWD with 2L D5W
   Allergies:
   Haldol (Oral) (Haloperidol)
   Confusion/Delir
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Last dose of Antibiotics:
   Ciprofloxacin - [**2172-5-13**] 03:36 PM
   Infusions:
   Octreotide - 50 mcg/hour
   Pantoprazole (Protonix) - 8 mg/hour
   Propofol - 25 mcg/Kg/min
   Other ICU medications:
   Propofol - [**2172-5-13**] 12:05 PM
   Fentanyl - [**2172-5-13**] 12:55 PM
   Midazolam (Versed) - [**2172-5-13**] 01:15 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-5-14**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.9
C (98.4
   HR: 72 (63 - 100) bpm
   BP: 109/54(71) {91/46(-11) - 160/76(104)} mmHg
   RR: 19 (13 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 22 (5 - 28)mmHg
   [**Last Name (un) **] 350, emesis 200
   Total In:
                                                                  6,119 mL
                                                                  1,884 mL
   PO:
                                                                    360 mL
                                  TF:
   IVF:
                                                                  4,010 mL
                                                                  1,884 mL
   Blood products:
                                                                  1,749 mL
   Total out:
                                                                  1,260 mL
                                                                    298 mL
   Urine:
                                                                    710 mL
                                                                    148 mL
   NG:
                                                                    550 mL
   Stool:
   Drains:
   150 mL
   Balance:
                                                                  4,859 mL
                                                                  1,586 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 466 (466 - 466) mL
   PS : 5 cmH2O
   RR (Set): 16
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 48
   PIP: 11 cmH2O
   Plateau: 20 cmH2O
   Compliance: 29.4 cmH2O/mL
   SpO2: 100%
   ABG: 7.42/35/91.[**Numeric Identifier 96**]/24/0
   Ve: 8.7 L/min
   PaO2 / FiO2: 184
   Physical Examination
   HEENT: OP with specks of blood, scleral icterus
   NECK: Supple, No LAD, No JVD
   CV: RR, NL rate. NL S1, S2. No murmurs, rubs or gallops
   LUNGS: crackles at bases
   ABD: distended, typanetic, shifting dullness, tense
   RECTAL: guaiac positive with brown stools
   EXT: 4+ edema
   SKIN: No lesions
   NEURO: confused, +flapping asterixis
   Labs / Radiology
   71 K/uL
   10.1 g/dL
   208 mg/dL
   1.4 mg/dL
   24 mEq/L
   3.9 mEq/L
   41 mg/dL
   114 mEq/L
   146 mEq/L
   30.2 %
   12.1 K/uL
        [image002.jpg]
                             [**2172-5-12**]  03:11 PM
                             [**2172-5-13**]  05:00 AM
                             [**2172-5-13**]  10:38 AM
                             [**2172-5-13**]  01:47 PM
                             [**2172-5-13**]  01:55 PM
                             [**2172-5-13**]  03:26 PM
                             [**2172-5-13**]  05:05 PM
                             [**2172-5-13**]  08:29 PM
                             [**2172-5-14**]  02:40 AM
                             [**2172-5-14**]  02:56 AM
   WBC
   11.6
   13.3
   12.1
   Hct
   28.4
   30.2
   29.2
   28.7
   30.6
   28.6
   30.2
   Plt
   85
   92
   90
   71
   Cr
   1.0
   1.3
   1.4
   TCO2
   24
   24
   23
   Glucose
   149
   201
   208
   Other labs: PT / PTT / INR:18.6/42.6/1.7, ALT / AST:97/169, Alk Phos /
   T Bili:130/12.3, Fibrinogen:139 mg/dL, Lactic Acid:1.6 mmol/L, LDH:337
   IU/L, Ca++:8.7 mg/dL, Mg++:1.6 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
   58 y/o M with history of ETOH cirrhosis admitted with encephalopathy
   and acute renal failure, now s/p hematemesis with intubation and
   [**Last Name (un) **] balloon placement.
   # UGI bleed: Likely variceal bleed in setting of cirrhosis. Hct stable
   30. 3x pRBCs on [**5-13**]. Vital signs stable.
   - EGD today: Severe portal hypertensive gastropathy, Esophageal varices
   (ligation)
   - serial Hcts; transfuse blood products as needed
   - PPI and octreotide infusion
   # Respiratory: intubated for a/w protection
   - extubate
   # Abdominal distention: likely air post EGD.
   - If spikes or destabilizies will get CT and consider para
   # Coagulopathy: ESLD related.
   - monitor coags and fibrinogen
   # Hypotension: likely hypovolemia, responding to NS bolus
   - monitor and continue IVF
   # Cirrhosis/hepatic encephalopathy: Intubated. Oriented to person but
   not place or time.  Less confused today after taking lactulose. S/p
   paracentesis with unremarkable ascitic fluid.
   - continue lactulose, rifaximin, pentoxifylline
   - hold nadolol given ongoing GI bleed
   - continue ciprofloxacin for empiric SBP treatment; consider d/c'ing
   once more clinically stable and cx unremarkable
   # ARF: Creatinine 1.4  from baseline of 1.2/1.0. Hypovolemia.
   - continue to trend renal labs
   - hold diuretics
   - IVFs prn
   # Diabetes type II:
   - continue home insulin
   # COPD:
   - continue nebs
   # H/o HTN: currently normotensive, will hold antihypertensives given
   ARF and GI bleed.
   # GERD: PPI
   # FEN: NPO for now
   # Ppx: pneumoboots
   # CODE: full
   # Contact: HCP/girlfriend [**Name (NI) **] [**Telephone/Fax (1) 9100**], [**Name2 (NI) **]er [**Name (NI) 729**]
   [**Telephone/Fax (1) 9101**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2172-5-12**] 03:00 PM
   Arterial Line - [**2172-5-13**] 01:15 PM
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **] - [**2172-5-13**] 01:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition:

2172-05-15 07:12:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Hematuria, tamponaded with foley, clot resolved with irrigation
   - HCT stable
   - Kept overnight for monitoring
   Allergies:
   Haldol (Oral) (Haloperidol)
   Confusion/Delir
   Ativan (Oral) (Lorazepam)
   Confusion/Delir
   Last dose of Antibiotics:
   Ciprofloxacin - [**2172-5-15**] 04:25 AM
   Infusions:
   Octreotide - 50 mcg/hour
   Other ICU medications:
   Pantoprazole (Protonix) - [**2172-5-14**] 08:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2172-5-15**] 07:12 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.8
C (98.2
   HR: 87 (78 - 102) bpm
   BP: 131/69(85) {87/37(48) - 141/76(87)} mmHg
   RR: 17 (16 - 31) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
    CVP: 25 (10 - 25)mmHg
   Total In:
                                                                  3,391 mL
                                                                    332 mL
   PO:
                                                                    555 mL
   TF:
   IVF:
                                                                  2,836 mL
                                                                    332 mL
   Blood products:
   Total out:
                                                                  1,010 mL
                                                                    100 mL
   Urine:
                                                                    630 mL
                                                                    100 mL
   NG:
   Stool:
   Drains:
                                                                    380 mL
   Balance:
                                                                  2,381 mL
                                                                    232 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, Face tent
   SpO2: 95%
   ABG: ///21/
   Physical Examination
   HEENT: Scleral icterus
   CV: NL S1, S2. No m/r/g
   LUNGS: crackles at bases
   ABD: distended, +bs
   EXT: 4+ edema
   SKIN: No lesions
   NEURO: Confused, + Asterixis
   Labs / Radiology
   73 K/uL
   10.0 g/dL
   170 mg/dL
   1.4 mg/dL
   21 mEq/L
   4.2 mEq/L
   44 mg/dL
   112 mEq/L
   143 mEq/L
   30.7 %
   17.8 K/uL
        [image002.jpg]
                             [**2172-5-13**]  01:47 PM
                             [**2172-5-13**]  01:55 PM
                             [**2172-5-13**]  03:26 PM
                             [**2172-5-13**]  05:05 PM
                             [**2172-5-13**]  08:29 PM
                             [**2172-5-14**]  02:40 AM
                             [**2172-5-14**]  02:56 AM
                             [**2172-5-14**]  09:42 AM
                             [**2172-5-14**]  03:49 PM
                             [**2172-5-15**]  04:21 AM
   WBC
   13.3
   12.1
   17.8
   Hct
   28.7
   30.6
   28.6
   30.2
   30.4
   32.1
   30.7
   Plt
   90
   71
   73
   Cr
   1.3
   1.4
   1.6
   1.4
   TCO2
   24
   24
   23
   Glucose
   [**Telephone/Fax (2) 9128**]0
   Other labs: PT / PTT / INR:17.9/44.3/1.6, ALT / AST:101/199, Alk Phos /
   T Bili:135/15.0, Fibrinogen:152 mg/dL, Lactic Acid:1.6 mmol/L, LDH:337
   IU/L, Ca++:8.8 mg/dL, Mg++:1.6 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
   Mr. [**Known lastname 5118**] [**Last Name (Titles) **] a 58 year old gentleman with EtOH cirrhosis c/b
   encephalopathy, varices, and ascites admitted to the MICU for variceal
   bleed s/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 4601**] and EGD with banding.
   # Variceal bleed: Patient is s/p banding with stable hct >24 hours with
   VSS.
   - Follow-up with hepatology recs if any
   - Daily hct
   - PPI and octreotide gtt
   # Encephalopathy: Likely secondary to GIB. Less likely to be SBP given
   recent diagnostic para ([**5-11**]) and cipro ppx, although leukocyostis is
   concerning for infectious process.  O2 requirement is not increased and
   patient does not have an exam concerning for pneumonia.
   - Lactulose PO/NG/PR and rifaxamin.
   - Hold off on CXR for now
   - Consider dobhoff placement.
   # Leukocytosis: Concerning for infectious process as above, although
   could be stress reaction from GIB.
   - Trend WBC, fever curve, hemodynamics.
   - Follow-up cx data.
   # Hematuria: Patient with hematuria in setting of ESLD-related
   coagulopathy. Unclear of initial traumatic FC placement, but hematuria
   and clots resolved with 3-way FC placement and CBI.
   - If patient redevelops hematuria or clots, consult urology.
   - Check UA
   # Respiratory: Intubated for airway protection pre-[**Last Name (un) **] and EGD
   now successfully extubated with adequate oxygenation.
   - Consider therapeutic paracentesis if patient develops restrictive
   physiology from ascites.
   # Abdominal distention: likely air in GI tract s/p EGD and
   insufflation.  KUB negative for free air.
   - If spikes or destabilizies will get CT and consider paracentesis.
   # Coagulopathy: Secondary to EtOH cirrhosis.
   - Trend coags
   # Hypotension: Patient has been periodically hypotension to SBP 80-90s
   asymptomatic usually while asleep. Likely combination of vasovagal and
   EtOH cirrhosis with splanchnic vasodialtion.
   - Monitor volume status, UOP, VS.
   # Cirrhosis/hepatic encephalopathy: Intubated. Oriented to person but
   not place or time.  Less confused today after taking lactulose.
   - Continue lactulose, rifaximin, pentoxifylline
   - Nadolol held in setting of GIB
   - Continue ciprofloxacin for empiric SBP treatment; consider d/c'ing
   once more clinically stable and cx unremarkable
   # ARF: Creatinine 1.4  from baseline of [**12-26**].2 and peak of 3.2 improved
   prior to MICU transfer with IVF and SPA.   Likely secondary to
   decreased renal perfusion active bleed and less likely to be HRS.
   - Trend Creatinine and chemistries
   - Hold diuretics
   - IVFs prn
   # Diabetes type II:
   - continue home insulin regimen
   # COPD: Stable
   - continue nebs
   # H/o HTN: currently normotensive, will hold antihypertensives given
   ARF and GI bleed.
   # GERD: PPI
   FEN: NPO given current mental status. Replete as necessary
   PPx: SCDs, PPI
   Lines: Right PICC, right [**Location (un) **] (d/c when transferred)
   CODE: full
   Contact: HCP/girlfriend [**Name (NI) **] [**Telephone/Fax (1) 9100**], [**Name2 (NI) **]er [**Name (NI) 729**] [**Telephone/Fax (1) 9101**]
   [**Name2 (NI) **]o: Pending improvement in mental status, although may be able to
   call out this afternoon.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   PICC Line - [**2172-5-12**] 03:00 PM
   [**First Name4 (NamePattern1) **] [**Last Name (NamePattern1) **] - [**2172-5-13**] 01:17 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status:
   Disposition: